US06300334B1
6-(1H-Benzimidazol-1-ylmethyl)-3-methyl-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Sodium borohydride (0.11 g) was added to 1,2,3,4-tetrahydro-3-methyl-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-2,4-dioxo-thieno[2,3-d]pyrimidine-6-carboxaldehyde (0.50 g) in ethanol (20 ml) and the mixture was stirred for 24 hours. The reaction was diluted with water (50 ml) and was then extracted with ethyl acetate (3×50 ml). The organic phases were washed with brine and then dried, filtered and evaporated to give the subtitle compound as a yellow solid (0.45 g).

reactant | Sodium borohydride | 0.11 g | [BH4-].[Na+]
reactant | 1,2,3,4-tetrahydro-3-methyl-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-2,4-dioxo-thieno[2,3-d]pyrimidine-6-carboxaldehyde | 0.50 g | CN1C(N(C2=C(C1=O)C(=C(S2)C=O)SC(C)C)CC(C)C)=O | C15H20N2O3S2
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 6-(1H-Benzimidazol-1-ylmethyl)-3-methyl-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.45 g | N1(C=NC2=C1C=CC=C2)CC2=C(C1=C(N(C(N(C1=O)C)=O)CC(C)C)S2)SC(C)C | C22H26N4O2S2
